US07514452B2
Preparation of pentafluorophenyl 4-hydroxy-3-nitrobenzoate
WSC (7.9 g) was added to a THF (100 ml) solution of 4-hydroxy-3-nitrobenzoic acid (7.3 g). and pentafluorophenol (7.4 g) at 0° C., and stirred overnight at 25° C. Water (50 ml) was added to the reaction solution, the solvent was evaporated under reduced pressure, and the organic layer was extracted with ethyl acetate. After drying the organic layer over MgSO4, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4), thereby giving 7.9 g of the desired compound.

reactant | WSC | 7.9 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | 4-hydroxy-3-nitrobenzoic acid | 7.3 g | OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H5NO5
reactant | pentafluorophenol | 7.4 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | Water | 50 ml | O | H2O
product | pentafluorophenyl 4-hydroxy-3-nitrobenzoate | 7.9 g | OC1=C(C=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1)[N+](=O)[O-] | C13H4F5NO5
